US05102877
To a solution of allyl (5R,6S)-3-(1-allyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.94 g) in tetrahydrofuran (38 ml) were added dropwise acetic acid (1.65 ml) and a solution of tetrabutylammonium fluoride in tetrahydrofuran (1M, 9.6 ml) at 0° C. After standing at ambient temperature for 8 hours, the reaction mixture was taken up into a mixture of ethyl acetate (300 ml) and water (300 ml). After adjusting pH to around 7 with aqueous sodium hydrogen carbonate the organic layer was separated washed in turn with water and brine and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (25 g) eluting with a mixture of n-hexane and ethyl acetate (9:1-3:7, V/V) to give allyl (5R,6S)-3-(1-allyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (281 mg).

reactant | allyl (5R,6S)-3-(1-allyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.94 g | C(C=C)OC(=O)N1CCC(=CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC=C | C27H40N2O6Si
reactant | acetic acid | 1.65 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 38 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 9.6 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | allyl (5R,6S)-3-(1-allyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 281 mg | C(C=C)OC(=O)N1CCC(=CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC=C | C21H26N2O6
